US09315491B2
5-Ethoxy-2-[4-(3-methyl-ureido)-phenyl]-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester
2M Methyl amine (1.1 ml, 10 eq.) was added to a stirred solution of 5-ethoxy-6-morpholin-4-yl-2-(4-phenoxycarbonylamino-phenyl)-pyrimidine-4-carboxylic acid ethyl ester (110 mg, 1 eq.) in dioxane (3 ml), and the mixture was reacted at 80° C. overnight. The reaction mixture was concentrated and purified by flash chromatography to give a product (47.5 mg, 50%).

reactant | Methyl amine | 2M, 1.1 ml, 10 eq. | CN | CH5N
reactant | 5-ethoxy-6-morpholin-4-yl-2-(4-phenoxycarbonylamino-phenyl)-pyrimidine-4-carboxylic acid ethyl ester | 110 mg, 1 eq. | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)NC(=O)OC1=CC=CC=C1 | C26H28N4O6
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 5-Ethoxy-2-[4-(3-methyl-ureido)-phenyl]-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester | 47.5 mg, 50% | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC | C21H27N5O5
